US06284923B1
1-[(3-Chloro-4-methoxyphenyl)aminosulfonyl]-2,3,4-trifluorobenzene.
The title compound was prepared in a manner similar to that described in Example 1 by replacing 4-fluoro-3-nitrophenylsulfonyl chloride with 2,3,4-trifluorophenylsulfonyl chloride and replacing p-anisidine with 3-chloro-4-methoxyaniline. 1H-NMR (CDCl3): δ 7.56 (1H, m), 7.17 (1H, d, J=2.0 Hz), 7.02 (1H, m), 6.98 (1H, dd, J=9.0 and 2.0 Hz), 6.78 (1H, d, J=9.0 Hz), 6.72 (1H, br s), 3.83 (3H, s). MS(EI): 352 (7, M+), 351 (20), 156 (100). Anal. Calcd. for C13H9ClF3NO3S: C, 44.39; H, 2.58; N, 3.98; S. 9.11. Found: C, 44.31; H, 2.58; N, 3.96; S, 9.08.

reactant | 2,3,4-trifluorophenylsulfonyl chloride | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 3-chloro-4-methoxyaniline | ClC=1C=C(N)C=CC1OC | C7H8ClNO
product | 1-[(3-Chloro-4-methoxyphenyl)aminosulfonyl]-2,3,4-trifluorobenzene | ClC=1C=C(C=CC1OC)NS(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C13H9ClF3NO3S
